US07902373B2
To a solution of 6-(3-cyanophenyl)nicotinic acid (50 mg, 0.222 mmol) in dimethylformamide (1 mL) was added 1,11-carbonylbis(1H-imidazole) (36.3 mg, 0.224 mmol) and the reaction mixture stirred at room temperature for 1 hour. A solution of 1-(2,2,2-trifluoroethyl)piperidin-4-amine (49 mg, 0.269 mmol) in dimethylformamide (0.5 mL) was then added and the reaction stirred overnight at room temperature. Further 1,11-carbonylbis(1H-imidazole) (18 mg, 0.132 mmol) was added and the reaction stirred for 30 minutes and then further 1-(2,2,2-trifluoroethyl)piperidin-4-amine (25 mg, 0.134 mmol) in dimethylformamide (0.5 mL) was added and the solution stirred for one hour. The dimethylformamide was evaporated off and the residue partitioned between ethyl acetate (10 mL) and water (3 mL). The organic layer was separated, dried over anhydrous MgSO4, filtered and evaporated to a white solid. This was triturated with t-butyl methyl ether and the white solid was filtered off and dried to give 6-(3-cyanophenyl)-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide 53 mg 1H NMR (400 MHz, DMSO-d6) ppm 1.57-1.67 (m, 2H) 1.80-1.87 (m, 2H) 2.43-2.54 (m, 2H) 2.93-2.99 (m, 2H) 3.20 (q, J=10.1 Hz, 2H) 3.83 (m , 1H) 7.76 (t, J=8.2 Hz, 1H) 7.97 (m, 1H) 8.24 (m, 1H) 8.34 (dd, J=6.2, 2.4 Hz, 1H) 8.52 (m, 2H) 8.61*m, 1H) 9.12 (m, 1H) LCMS 389 (M+1) ELSD 1.27 minutes.

reactant | 6-(3-cyanophenyl)nicotinic acid | 0.222 mmol, 50 mg | C(#N)C=1C=C(C=CC1)C1=NC=C(C(=O)O)C=C1 | C13H8N2O2
reactant | 1-(2,2,2-trifluoroethyl)piperidin-4-amine | 0.269 mmol, 49 mg | FC(CN1CCC(CC1)N)(F)F | C7H13F3N2
reactant | 1-(2,2,2-trifluoroethyl)piperidin-4-amine | 0.134 mmol, 25 mg | FC(CN1CCC(CC1)N)(F)F | C7H13F3N2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 6-(3-cyanophenyl)-N-[1-(2,2,2-trifluoroethyl)piperidin-4-yl]nicotinamide | 53 mg | C(#N)C=1C=C(C=CC1)C1=NC=C(C(=O)NC2CCN(CC2)CC(F)(F)F)C=C1 | C20H19F3N4O
